US05710246
A solution of Boc-Lys(iPr)-Pro-D-Ala-NH2 (9.11 gm) in 10% Na2 CO3 (25 mL) and THF (30 mL) was cooled to 0° C. and treated with a solution of Fmoc-Cl (6.46 gm) in THF. After 1 hour at 0° C. the mixture was partitioned between EtOAc (200 mL) and water (100 mL) and the layers were separated. The organic layer was washed with water (100 mL), 10% citric acid (2×100 mL) and water (100 mL), then dried over Na2SO4 and evaporated to dryness to yield an oil. The residue was dissolved in EtOAc and precipitated from heptane to yield 11.66 gm of crude product. This material was dissolved in a small in EtOAc and loaded onto a silica gel (200 gm) column which was eluted with an EtOAc/heptane mixture (2/1), followed by EtOAc and finally by ethanol. The product-containing fractions were combined and evaporated in vacuo to dryness to yield an oil. The residue was dissolved in a small amount of EtOAc and precipitated from heptane to yield 10.75 gm of Boc-Lys(iPr,Fmoc)-Pro-D-Ala-NH2. HPLC: 98.1%, MS: (M+H)+ =678, (M+NH4)+ =695, [a]D=-12.2 (c=1, HOAc)

reactant | Boc-Lys(iPr)-Pro-D-Ala-NH2 | 9.11 gm | N([C@@H](CCCCNC(C)C)C(=O)N1[C@H](C(=O)N[C@H](C)C(=O)N)CCC1)C(=O)OC(C)(C)C | C22H41N5O5
reactant | Fmoc-Cl | 6.46 gm | C(=O)(OCC1C2=CC=CC=C2C2=CC=CC=C12)Cl | C15H11ClO2
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | Boc-Lys(iPr,Fmoc)-Pro-D-Ala-NH2 | 10.75 gm | N([C@@H](CCCCN(C(C)C)C(=O)OCC1C2=CC=CC=C2C2=CC=CC=C12)C(=O)N1[C@H](C(=O)N[C@H](C)C(=O)N)CCC1)C(=O)OC(C)(C)C | C37H51N5O7
